US05516788
cis-5,5a,6,10b-Tetrahydro-9-methoxyindeno[2,1-b]indole
5,6-Dihydro-9-methoxyindeno[2,1-b]indole (0.56 g), as a suspension in glacial acetic acid (25 cm3) at 16° C., was treated with sodium cyanoborohydride (1.0 g) in small portions over 6 hours. The resulting solution was stirred for a further 1 hour, and then poured into ice-water (100 cm3). The solution was separated from a small amount of resinous material and the filtrate treated with sodium carbonate (2.5 g) in small portions with vigorous stirring. The colourless solid which separated was collected and crystallised form ethanol as needles. Yield: 0.31 g, 55% M.p. 129°-130° C. 1H NMR (CDCl3) δ: 3.06 (1H, dd, J=16.5 and 1.5 Hz), 3.2-3.8 (1H, br.s), 3.31 (1H, dd, J=16.5 and 6.0 Hz), 3.76 (3H, s), 4.71 (1H, d, J=8.0 Hz), 4.80 (1H, ddd, J=8.0, 6.0 and 2.0 Hz), 6.5 (1H, d, J=8.5 Hz), 6.58 (1H, dd, J=8.5 and 2.5 Hz), 6.99 (1H, d, J=2.5 Hz), 7.15-7.24 (3H, m), 7.33-7.36 (1H, m).

reactant | 5,6-Dihydro-9-methoxyindeno[2,1-b]indole | 0.56 g | COC1=CC=C2CC=3NC4=CC=CC=C4C3C2=C1 | C16H13NO
reactant | sodium cyanoborohydride | 1.0 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 25 cm3 | C(C)(=O)O | C2H4O2
product | cis-5,5a,6,10b-Tetrahydro-9-methoxyindeno[2,1-b]indole | COC1=CC=C2C[C@H]3NC4=CC=CC=C4[C@H]3C2=C1 | C16H15NO
